US07585880B2
methyl 3-[4-({3-[[(4-phenyl-1,3-thiazol-2-yl)methyl](propyl)amino]benzyl}oxy)phenyl]propanoate
To a mixture of 4-phenyl-1,3-thiazole-2-carbaldehyde (210 mg, 1.1 mmol), methyl 3-{4-[(3-aminobenzyl)oxy]phenyl}-propanoate (285 mg, 1.0 mmol), acetic acid (0.2 mL) and 1,2-dichloroethane (5 mL) was added sodium triacetoxyborohydride (0.6 g, 2.8 mmol) under ice-cooling, and the mixture was warmed to room temperature and stirred for 1 hr. Propanal (200 mg, 3.4 mmol) was added to the reaction mixture, and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:2 in volume ratio) to give the title compound (393 mg, yield 78%) as a yellow oil.

reactant | 4-phenyl-1,3-thiazole-2-carbaldehyde | 1.1 mmol, 210 mg | C1(=CC=CC=C1)C=1N=C(SC1)C=O | C10H7NOS
reactant | methyl 3-{4-[(3-aminobenzyl)oxy]phenyl}-propanoate | 1.0 mmol, 285 mg | NC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H19NO3
reactant | sodium triacetoxyborohydride | 2.8 mmol, 0.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Propanal | 3.4 mmol, 200 mg | C(CC)=O | C3H6O
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | methyl 3-[4-({3-[[(4-phenyl-1,3-thiazol-2-yl)methyl](propyl)amino]benzyl}oxy)phenyl]propanoate | 393 mg, yield 78% | C1(=CC=CC=C1)C=1N=C(SC1)CN(C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1)CCC | C30H32N2O3S
